US07858646B2
Synthesis of 6-(3-hydroxymethyl-phenoxy)-nicotinonitrile.
Add 3-hydroxybenzyl alcohol (0.99 g, 7.94 mmol) and potassium carbonate (1.50 g, 10.83 mmol) to 6-chloronicotinitrile (1.00 g, 7.22 mmol) in dimethylacetamide (25 mL) and stir. Heat to 100° C. for 4 hrs. Let cool to ambient temperature and pour into water (100 mL). Extract with diethyl ether (3×100 mL). Combine the organic layers and wash with 1N NaOH (2×50 mL) and dry over magnesium sulfate. Filter and concentrate under reduced pressure to give the product (1.63 g, 99%): 1H NMR (CDCl3) 8.49 (d, J=2.2 Hz, 1H), 7.95 (dd, J=2.2 Hz, 8.7 Hz, 1H), 7.47 (t, J=7.9 Hz, 1H), 7.29 (s, 1H), 7.21 (s, 1H), 7.10 (d, J=8.2 Hz, 1H), 7.06 (d, J=8.7 Hz, 1H), 4.77 (s, 2H).

reactant | 3-hydroxybenzyl alcohol | 7.94 mmol, 0.99 g | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | potassium carbonate | 10.83 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloronicotinitrile | 7.22 mmol, 1.00 g | C1=CC(=NC=C1C#N)Cl | C6H3ClN2
reactant | water | 100 mL | O | H2O
solvent | dimethylacetamide | 25 mL | CC(=O)N(C)C | C4H9NO
product | 6-(3-hydroxymethyl-phenoxy)-nicotinonitrile | 1.63 g, 99% | OCC=1C=C(OC2=NC=C(C#N)C=C2)C=CC1 | C13H10N2O2
